US05968985
A mixture of 3-bromo-2,5-dichlorothiophene (0.30 g), [3,5-bis(methoxycarbonyl)phenyl]-dihydroxyborane (0.37 g), lithium chloride (0.164 g), tetrakis(triphenylphosphine)palladium(0) (0.0747 g) and 2M aqueous sodium carbonate solution (1.55 ml) in 1,2-dimethoxyethane (3.6 ml) was heated at 85° C. and stirred vigorously for 4 hours under nitrogen. The reaction mixture was cooled to room temperature and to the mixture was added ethyl acetate (20 ml) and 2M sodium carbonate solution (20 ml). The layers were separated, and the organic layer was washed successively with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (20:1). The fractions containing the desired product were collected and evaporated in vacuo to give dimethyl 5-(2,5-dichlorothiophen-3-yl)isophthalate (0.26 g).

reactant | 3-bromo-2,5-dichlorothiophene | 0.30 g | BrC1=C(SC(=C1)Cl)Cl | C4HBrCl2S
reactant | [3,5-bis(methoxycarbonyl)phenyl]-dihydroxyborane | 0.37 g | COC(=O)C=1C=C(C=C(C1)C(=O)OC)B(O)O | C10H11BO6
reactant | lithium chloride | 0.164 g | [Cl-].[Li+]
reactant | sodium carbonate | 2M, 1.55 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium carbonate | 2M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3.6 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0747 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | dimethyl 5-(2,5-dichlorothiophen-3-yl)isophthalate | 0.26 g | ClC=1SC(=CC1C=1C=C(C=C(C(=O)OC)C1)C(=O)OC)Cl | C14H10Cl2O4S
